US06288061B1
5-(4-Methoxyphenyl)-2-(4-nitrophenyl)imidazole-4-carboxylic acid, 1 M hydrochloric acid—ether solution, thionyl chloride and 2-amino-1,3,4-thiadiazole are reacted and treated in the same manner as in Example 1 to give 5-(4-methoxyphenyl)-2-(4-nitrophenyl)-N-(1,3,4-thiadiazol-2-yl)imidazole-4-carboxamide.

reactant | 5-(4-Methoxyphenyl)-2-(4-nitrophenyl)imidazole-4-carboxylic acid | COC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C17H13N3O5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-1,3,4-thiadiazole | NC=1SC=NN1 | C2H3N3S
product | 5-(4-methoxyphenyl)-2-(4-nitrophenyl)-N-(1,3,4-thiadiazol-2-yl)imidazole-4-carboxamide | COC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)NC=1SC=NN1 | C19H14N6O4S
